US05859044
2c. 1-(4-Nitro-benzyl)-5-(2-oxo-propyl)-1H-indole-2-carboxylic Acid Benzyl Ester
A solution of 5-bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic acid benzyl ester (1.733 g, 3.72 mmol), tributyltin methoxide (1.79 g, 1.6 ml, 5.58 mmol), isopropenyl acetate (0.56 g, 0.61 ml, 5.58 mmol), palladium (II) acetate (41.5 mg, 0.19 mmol) and tri-o-tolylphosphine (113 mg, 0.37 mmol) in toluene (5 ml) was heated at about 95° C. under nitrogen for about 6 hours. The reaction solution was cooled, concentrated in vacuo, and subjected to flash chromatography on silica (105 g, 30% ethyl acetate/hexanes). The partially pure product was re-chromatographed on silica (12 g, 50% methylene chloride/hexanes) to give the title compound (547 mg).

reactant | 5-bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic acid benzyl ester | 3.72 mmol, 1.733 g | C(C1=CC=CC=C1)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)CC1=CC=C(C=C1)[N+](=O)[O-] | C23H17BrN2O4
reactant | tributyltin methoxide | 5.58 mmol, 1.6 ml, 1.79 g | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | isopropenyl acetate | 5.58 mmol, 0.61 ml, 0.56 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | tri-o-tolylphosphine | 0.37 mmol, 113 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.19 mmol, 41.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(4-Nitro-benzyl)-5-(2-oxo-propyl)-1H-indole-2-carboxylic Acid Benzyl Ester | 547 mg | C(C1=CC=CC=C1)OC(=O)C=1N(C2=CC=C(C=C2C1)CC(C)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C26H22N2O5
